US07060827B2
In like manner to the preparation of (±)-N4-(3,4-difluorophenyl)-5-fluoro-N2-[2-(N-methylamino)carbonyl-2,3-dihydrobenzofuran-5-yl]-2,4-pyrimidinediamine, the reaction of methyl amine Hydrogen Chloride with (±)-N4-(4-chlorophenyl)-N2-(2,3-dihydro-2-methoxycarbonylbenzofuran-5-yl)-5-fluoro-2,4-pyrimidinediamine gave (±)-N4-(4-chlorophenyl)-N2-[2,3-dihydro-2-(N-methylamino)carbonylbenzofuran-5-yl]-5-fluoro-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.40 (s, 1H), 9.02 (s, 1H), 8.05 (m, 2H), 7.84 (dd, 2H, J=2.7 and 9.3 Hz), 7.51 (bs, 1H), 7.32 (bd, 2H, J=8.7 Hz), 7.23 (bd, 1H, J=8.7 Hz), 6.72 (d, 1H, J=8.7 Hz), 5.07 (dd, 1H, J=6.0 and 6.3 Hz), 3.39 (dd, 1H), 3.17 (dd, 1H), 2.60 (d, 3H, J=4.8 Hz); LCMS: purity: 99%; MS (m/e): 414 (MH+).

reactant | methyl amine Hydrogen Chloride | Cl.CN
reactant | (±)-N4-(4-chlorophenyl)-N2-(2,3-dihydro-2-methoxycarbonylbenzofuran-5-yl)-5-fluoro-2,4-pyrimidinediamine | ClC1=CC=C(C=C1)NC1=NC(=NC=C1F)NC=1C=CC2=C(CC(O2)C(=O)OC)C1 | C20H16ClFN4O3
product | (±)-N4-(4-chlorophenyl)-N2-[2,3-dihydro-2-(N-methylamino)carbonylbenzofuran-5-yl]-5-fluoro-2,4-pyrimidinediamine | ClC1=CC=C(C=C1)NC1=NC(=NC=C1F)NC=1C=CC2=C(CC(O2)C(=O)NC)C1 | C20H17ClFN5O2
